US06211215B1
In substantially the same manner as in Working Example 48, 1-[3-(4-hydroxyphenyl)propyl]imidazole was allowed to react with 2-(3-benzyloxyphenyl)-4-chloromethyloxazole to give 2-(3-benzyloxyphenyl)-4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]oxazole. The yield was 65%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 112-113° C.

reactant | 1-[3-(4-hydroxyphenyl)propyl]imidazole | OC1=CC=C(C=C1)CCCN1C=NC=C1 | C12H14N2O
reactant | 2-(3-benzyloxyphenyl)-4-chloromethyloxazole | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C=1OC=C(N1)CCl | C17H14ClNO2
product | 2-(3-benzyloxyphenyl)-4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]oxazole | yield was 65% | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C=1OC=C(N1)COC1=CC=C(C=C1)CCCN1C=NC=C1 | C29H27N3O3
